US07790724B2
d) 2-Carbamoyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid
To a solution of 2-cyano-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid ethyl ester (prepared in the previous step)(0.28 g, 0.95 mmol) in 10 mL of 50% EtOH/H2O was added a 2 N KOH soln (0.95 mL, 1.9 mmol) and the mixture stirred for 8 h at RT. The pH was adjusted to 4 with 3 N HCl and the ppt was collected and dried to give 0.24 g (88%) of a white solid. 1H-NMR (DMSO-d6, 400 MHz): δ 13.39 (s, 1H), 8.19 (s, 1H), 7.90 (s, 1H), 7.76 (s, 1H), 6.29 (s, 2H), 3.57 (t, J=7.8 Hz, 2H), 0.87 (t, J=7.8 Hz, 2H), 0.00 (s, 9H). Mass spectrum (ESI, m/z): Calcd. for C11H19N3O4Si, 286.1 (M+H), found 285.8.

reactant | 2-cyano-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1)C#N)COCC[Si](C)(C)C | C13H21N3O3Si
reactant | KOH | 2 N | [OH-].[K+]
reactant | HCl | 3 N | Cl | ClH
solvent | EtOH H2O | 10 mL | CCO.O
product | 2-Carbamoyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazole-4-carboxylic acid | 0.24 g, 88% | C(N)(=O)C1=NC=C(N1COCC[Si](C)(C)C)C(=O)O | C11H19N3O4Si
